US05194442
4,5-Epoxy-2,3,4,5-tetrahydro-1-benzoxepin
8.60 g (0.298 mole) of sodium hydride (80% dispersion in mineral oil) are introduced under argon into 320 ml of DMSO, and a solution of 243 g (0.259 mole) of trans-4-bromo-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin in 180 ml of DMSO is added dropwise at room temperature within 2.5 hours. After 3 hours, the mixture is poured onto ice/water with stirring, and is extracted 3 times with diethyl ether. The combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate and filtered, and the solvent is evaporated off in vacuo. The remaining 44 g of oil is distilled at 67°-69° C./0.01 torr.

reactant | sodium hydride | 0.298 mole, 8.60 g | [H-].[Na+]
reactant | trans-4-bromo-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | 0.259 mole, 243 g | Br[C@@H]1CCOC2=C([C@H]1O)C=CC=C2 | C10H11BrO2
solvent | DMSO | 180 ml | CS(=O)C | C2H6OS
solvent | DMSO | 320 ml | CS(=O)C | C2H6OS
product | 4,5-Epoxy-2,3,4,5-tetrahydro-1-benzoxepin | O1C2CCOC3=C(C21)C=CC=C3 | C10H10O2
